US04808727
95 mg of 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-phenylimidazolium chloride are suspended in 10 ml of saturated sodium hydrogen carbonate solution and the suspension is stirred at room temperature for 18 hours. The product (1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-phenylimidazolium hydrogen carbonate) is filtered, washed with water and ether. The still moist product is subsequently dissolved in 10 ml of methanol and treated with 2 ml of glacial acetic acid. The solution is evaporated at room temperature in a vacuum and the residue is crystallized from methanol/ether. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-phenyl imidazolium acetate of melting point 167°.

reactant | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-phenylimidazolium chloride | 95 mg | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C2=CC=CC=C2)C=C1)C
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-phenyl imidazolium acetate | C(C)(=O)[O-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C2=CC=CC=C2)C=C1)C | InChI=1S/C27H29N6.C2H4O2/c1-30(2)25-14-10-22(11-15-25)20-28-32-18-19-33(27(32)24-8-6-5-7-9-24)29-21-23-12-16-26(17-13-23)31(3)4;1-2(3)4/h5-21H,1-4H3;1H3,(H,3,4)/q+1;/p-1
